data/mechanism_extracts/ChemCommun/10.1039_d3cc04920e.json
{"doi": "10.1039_d3cc04920e", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Galvanostatic electroreductive cyclodimerization of chalcones to densely functionalized 1,3-diol cyclopentanes with five contiguous stereocenters", "mechanism_family": ["radical_cathodic", "radical_anion"], "electrochemical_role": "Cathodic single-electron reduction of chalcone to a radical anion at the Ag cathode (Epc = -1.52 V vs SCE), followed by a second cathodic reduction event of the dimerized enolate intermediate and a final more demanding reduction of the aldol ketone (E1/2 = -1.86 V); graphite anode oxidizes TEOA as sacrificial reductant/proton source", "key_intermediates": [{"name": "chalcone radical anion (A)", "smiles": null, "role": "reactive"}, {"name": "Giese-type tail-to-tail dimer radical (B)", "smiles": null, "role": "transient"}, {"name": "1,6-diketone monoenolate (C)", "smiles": null, "role": "reactive"}, {"name": "aldol intermediate 2a (cis hydrogen-bonded isomer)", "smiles": null, "role": "reactive"}, {"name": "aldol epimer 2a' (X-ray characterized)", "smiles": null, "role": "reactive"}, {"name": "1,3-diol product 3a", "smiles": null, "role": "reactive"}, {"name": "putative epimer 3a' (not observed)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode reduces chalcone 1a to radical anion A, which adds in tail-to-tail Giese fashion to a second 1a giving radical B; a second cathodic event plus protonation (or radical-radical coupling of two A) produces 1,6-diketone monoenolate C, which undergoes non-diastereoselective intramolecular aldol to 2a/2a'; an irreversible cathodic ketone reduction of the more reactive H-bonded isomer 2a delivers diol 3a (dynamic kinetic resolution via retro-aldol equilibration of 2a').", "rate_determining_step": "Final cathodic reduction of the aldol ketone 2 to the 1,3-diol 3 is the most energetically demanding step (occurs at -1.86 V vs the -1.52/-1.58 V for chalcone reduction), enabled only by galvanostatic self-adaptation", "probe_reagents": [{"name": "isolated aldol intermediates 2a and 2a'", "smiles": null, "purpose": "intermediate_trap", "observation": "Reaction interrupted at 1 F/mol gave 68% combined 2a + 2a' (~1:1); resubjecting either to optimal conditions delivered 3a in >20:1 dr with no 3a' formed, confirming both as productive intermediates and revealing dynamic kinetic resolution"}, {"name": "pure 2a' + TEOA (control)", "smiles": null, "purpose": "intermediate_trap", "observation": "Exposure to TEOA (2 equiv) furnished a 1:1 2a:2a' mixture, supporting retro-aldol equilibration"}, {"name": "Hantzsch ester (HE)", "smiles": null, "purpose": "other", "observation": "Replacing TEOA with HE as reductant gave no 3a, only aldol mixture 18/17/— (entry 6), showing TEOA's dual role as reductant and proton source"}, {"name": "Zn sacrificial anode (no TEOA)", "smiles": null, "purpose": "other", "observation": "No 3a formed; only partial reduction of 1a and aldols (entry 7)"}, {"name": "controlled H2O addition", "smiles": "O", "purpose": "other", "observation": "Made the second CV peak fully reversible at E1/2 = -1.86 V, supporting proton-coupled formation of C and aldol cyclization"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Two pathways are proposed for formation of monoenolate C: (a) favored — Giese addition of radical anion A to neutral 1a giving B, then second cathodic reduction/protonation; (b) alternative — direct radical-radical coupling of two A followed by protonation, consistent with the half-height of the second CV wave and the fact that B→C reduction would occur at less negative potential than 1a→A. Diastereoselectivity arises from dynamic kinetic resolution: only the H-bond-activated isomer 2a is reduced rapidly, while 2a' equilibrates back via retro-aldol. X-ray structures of 3a and 2a' were obtained."}
